* OVERALL BEST CANDIDATE: 00_Phase_2_72V_EV_Battery_to_12V_Buck_6_1_g2_cand3_b5
* FITNESS SCORE: 0.7520
*
* Generated: 2026-06-07T23:33:28
* Constraint: Phase 2: 72V EV Battery to 12V (Buck - 6:1)
*   vin_min = 60
*   vin_max = 84
*   vout_target = 12
*   efficiency_target = 0.89
*   power_in = 150
* Candidate: 6 of 12
* Grouped name: g2_cand3
*
* 60V to 12V Buck Converter
Vin in 0 60
M1 in gate sw 0 NMOS W=1 L=1
D1 sw out DIODE
L1 sw out 100u
C1 out 0 470u
Rload out 0 1
Vgate gate 0 PULSE(0 12 0 1n 1n 5u 10u)
.model NMOS NMOS(Vto=1 Kp=2 Lambda=0)
.model DIODE D
.tran 10n 1m
.save V(*) I(*)
.end
